US07084156B2
Step A: Preparation of 2-chloro-3-methyl-6-nitroquinoline
To a solution of 4-nitroaniline (10 g, 72 mmol) in chloroform at 0° was added propionyl chloride (7 mL, 80 mol) followed by triethylamine (11.1 mL). The resulting solution was stirred for 2 h at r.t. at which time the reaction mixture was washed with aq. 2N HCl. The organic layer was dried filtered and the solvent removed under vacuum to provide a solid. A solution of phosphorous oxychloride (25 mL) and N,N-dimethylformamide (4.5 mL) was stirred at 0° for 0.15 h then the above solid was added. The resulting reaction mixture was heated at 75° for 12 h at which time the volatiles were removed under vacuum. The residue was cooled in an ice bath. To the cooled mixture was carefully added water (50 mL). The resulting solids were filtered and then washed with water. The solids were extracted with chloroform, the extracts were combined, dried, filtered and the solvent removed under vacuum to afford the product, MS: m/z 224 (MH+), which was used directly in the next step.

reactant | 4-nitroaniline | 72 mmol, 10 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | propionyl chloride | 80 mol, 7 mL | C(CC)(=O)Cl | C3H5ClO
reactant | triethylamine | 11.1 mL | C(C)N(CC)CC | C6H15N
reactant | phosphorous oxychloride | 25 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-dimethylformamide | 4.5 mL | CN(C=O)C | C3H7NO
product | 2-chloro-3-methyl-6-nitroquinoline | ClC1=NC2=CC=C(C=C2C=C1C)[N+](=O)[O-] | C10H7ClN2O2
